US04455422
2.87 Grams of 6-(3-piperazinylpropyl)-3,4-dihydrocarbostyril, 2.0 g of p-nitroaniline, 0.8 g of potassium carbonate and 0.2 g of copper powder were mixed in 80 ml of 3-methoxybutanol and refluxed by heating for 5 hours. Then 3 g of activated carbon was added to the reaction mixture and filtered with Celite, then the mother liquor was concentrated under a reduced pressure to obtain a residue. The residue was purified by a silica-gel chromatography and recrystallized from isopropanol to obtain 0.55 g of 6-{3-[4-(4-nitrophenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril in yellow needle-like crystals, having the melting point of 189°-192° C.

reactant | 6-(3-piperazinylpropyl)-3,4-dihydrocarbostyril | N1(CCNCC1)CCCC=1C=C2CCC(NC2=CC1)=O | C16H23N3O
reactant | p-nitroaniline | 2.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | 3-methoxybutanol | 80 ml | COC(CCO)C | C5H12O2
catalyst | copper | 0.2 g | [Cu] | Cu
product | 6-{3-[4-(4-nitrophenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril | 0.55 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCCC=1C=C2CCC(NC2=CC1)=O | C22H26N4O3
